US08802661B2
Preparation of (1S,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-oxoicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate. Intermediate 31
To a solution of (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.3 g, 6.01 mmol) in DCM (50 mL) was added PCC (3.89 g, 18.04 mmol). The reaction mixture was stirred for 4 hours. TLC indicated sm was consumed and desired product was formed. The reaction mixture was concentrated under reduced pressure. The residue was purified by biotage with 0-10% ethyl acetate/hexane to provide the title compound as white solid (3.05, 93%). LCMS: m/e 547.25 (M+H)+, 2.77 min (method 1). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.41-7.28 (m, 5H), 5.10 (q, J=12.41 Hz, 2H), 2.57-2.34 (m, 2H), 2.31-2.16 (m, 3H), 1.98-1.86 (m, 1H), 1.85-1.73 (m, 2H), 1.73-1.61 (m, 1H), 1.54-1.07 (m, 17H), 1.06 (s, 3H), 1.01 (s, 3H), 0.92 (s, 3H), 0.90 (s, 3H), 0.84 (d, J=7.02 Hz, 3H), 0.76 (s, 3H), 0.73 (d, 3H).

reactant | (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 6.01 mmol, 3.3 g | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C37H56O3
reactant | PCC | 18.04 mmol, 3.89 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (1S,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 1-isopropyl-5a,5b,8,8,11a-pentamethyl-9-oxoicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | C(C)(C)[C@@H]1CC[C@]2([C@H]1[C@H]1CC[C@@H]3[C@]4(CCC(C([C@@H]4CC[C@]3([C@@]1(CC2)C)C)(C)C)=O)C)C(=O)OCC2=CC=CC=C2 | C37H54O3
